US04960791
Salannic acid (1c) was prepared by a modification of the method of de Silva et al. (1969), supra. Salannin (30 mg, 0.050 mmol) was dissolved in 2.0 mL of 0.5 N NaOH in 50% aqueous methanol and incubated at 60° C. for 6 h. The reaction mixture was poured onto 10 mL of 0.5 N HC1 and extracted three times with 10-mL portions of diethyl ether. The organic layers were combined, washed once with 10 mL of saturated aqueous sodium chloride, and rotary evaporated in vacuo. Purification of the crude product by silica gel preparative HPLC (solvent = isopropanol-n-hexane acetic acid, 10:90:1) yielded salannic acid (16 mg). The IR spectrum of salannic acid showed the loss of the absorptions at 1710, 1655, and 735 cm-1, assigned to the tigloyl group (Henderson et al., 1968; Butterworth, J. H., et al. J. Chem. Soc.. Perkin Trans. I. 1972, 1445-2450; Yamasaki and Klocke, unpublished data), and the appearance of a very broad, intense absorption at 3400 cm-1 characteristic of a carboxylic acid (Silverstein et al., Spectrometric Identification of Organic Compounds, 4th ed. Wiley, New York, 1981, pp. 204-208). All of the 1H-NMR absorptions of the tigloyl (δ1.81, 1.94, and 6.96), acetyl (δ1.94, and carbomethoxyl (δ3.24) groups had vanished.

reactant | Salannin | 0.050 mmol, 30 mg | C/C=C(/C)\C(=O)O[C@H]1C[C@H]([C@]2(CO[C@@H]3[C@@H]2[C@]1([C@H]([C@]4([C@@H]3O[C@H]5C4=C([C@@H](C5)C=6C=COC6)C)C)CC(=O)OC)C)C)OC(=O)C | C34H44O9
solvent | NaOH | 0.5 N, 2.0 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | salannic acid | 16 mg | CC1=C2[C@@H](C[C@H]1C3=COC=C3)O[C@H]4[C@@]2([C@@H]([C@]5([C@H](C[C@H]([C@@]6([C@@H]5[C@H]4OC6)C)O)O)C)CC(=O)O)C | C26H34O7
